US07176316B2
(+/−)-N-(4-{Phenyl-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-sulfamoyl}-phenyl)-acetamide
A solution of (+/−)-4-amino-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide (0.1 g, 0.2 mmol) in acetic acid (5 ml) was treated with acetic anhydride (1 ml) and stirred at room temperature for 1 h. The volatiles were evaporated and the residue was purified by flash chromatography on silica gel, eluting with dichloromethane/methanol/ammonia 110:10:1. The product was crystallised from hexane/ether, yielding the title compound (0.06 g, 59%) as a white solid, MS (ISP): m/e 532.5 (M+H+).

reactant | (+/−)-4-amino-N-phenyl-N-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-benzenesulfonamide | 0.2 mmol, 0.1 g | NC1=CC=C(C=C1)S(=O)(=O)N(C1CCN(CC1)[C@H]1[C@H](CCCC1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H35N3O2S
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (+/−)-N-(4-{Phenyl-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-sulfamoyl}-phenyl)-acetamide | 0.06 g, 59% | C1(=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C1CCN(CC1)[C@H]1[C@H](CCCC1)C1=CC=CC=C1 | C31H37N3O3S
